US07008940B1
6,7-Dimethyl-5-methoxy-3-(methylthio)-1,3-dihydro-2H-indole-2-one
To a solution of methyl (methylthio)acetate (40.8 mL, 317 mmol) in dichloromethane (1100 mL) was added sulfuryl chloride (26.6 mL, 331 mmol) at −78° C., and the mixture was stirred for 15 minutes. Further, a solution of 4-methoxy-2,3-dimethylaniline (41.7 g, 276 mmol) and proton sponge (62.1 g, 290 mmol) in dichloromethane (200 mL) was added dropwise over 1 hour and mixture was stirred at the same temperature for 1 hour. Triethylamine (43 mL, 380 mmol) was added, and the temperature was gradually raised to room temperature. After stirring at room temperature for 2 hours, water was added, the organic layer was washed with an aqueous saturated solution of sodium bicarbonate and saturated brine, dried over sodium sulfate, and the solvent was distilled off under reduced pressure. To the residue was added toluene (300 mL), and the mixture was stirred at reflux for 1 hour. The solvent was distilled off under reduced pressure, which was recrystallized from ethyl acetate to obtain 30.0 g of the title compound.

reactant | methyl (methylthio)acetate | 317 mmol, 40.8 mL | CSCC(=O)OC | C4H8O2S
reactant | sulfuryl chloride | 331 mmol, 26.6 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-methoxy-2,3-dimethylaniline | 276 mmol, 41.7 g | COC1=C(C(=C(N)C=C1)C)C | C9H13NO
reactant | proton sponge | 290 mmol, 62.1 g | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | Triethylamine | 380 mmol, 43 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 6,7-Dimethyl-5-methoxy-3-(methylthio)-1,3-dihydro-2H-indole-2-one | 30.0 g, Yield 46% | CC1=C(C=C2C(C(NC2=C1C)=O)SC)OC | C12H15NO2S
